US07091237B2
5-(4-chlorophenyl)-3-hydroxymethyl-2-trifluoromethylfuran
A mixture of 5-(4-chlorophenyl)-2-(trifluoromethyl)furan-3-carboxylic acid (0.30 g) in tetrahydrofuran (10 ml) stirred under a nitrogen atmosphere at 0° C. was treated with a 1M solution of borane in tetrahydrofuran (10.33 ml) and the reaction stirred at room temperature for 2 hours. The reaction was cooled to 0° C.; treated with methanol (4 ml) and after 15 minutes the reaction mixture was evaporated. The residue was purified by SPE (Si cartridge) sequentially using dichloromethane, chloroform and chloroform:ether (9:1) as eluents to give the title compound as a white solid.

reactant | 5-(4-chlorophenyl)-2-(trifluoromethyl)furan-3-carboxylic acid | 0.30 g | ClC1=CC=C(C=C1)C1=CC(=C(O1)C(F)(F)F)C(=O)O | C12H6ClF3O3
reactant | borane | B | BH3
reactant | methanol | 4 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10.33 ml | O1CCCC1 | C4H8O
product | 5-(4-chlorophenyl)-3-hydroxymethyl-2-trifluoromethylfuran | ClC1=CC=C(C=C1)C1=CC(=C(O1)C(F)(F)F)CO | C12H8ClF3O2
